US06306870B1
(E)-(4-[3-Oxo-3-(1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl)propenyl]benzyloxy)acetic Acid
The same method as employed in the preparation of Example 79 but starting from a solution of (E)-(4-[3-oxo-3-(1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl)propenyl]benzyloxy acetic acid, ethyl ester in EtOH gave after recrystallization from MeOH:H2O the title compound as an off-white solid in a 40% yield.

reactant | 4-[3-oxo-3-(1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl)propenyl]benzyloxy acetic acid, ethyl ester | O=C(C=CC1=CC=C(COCC(=O)OCC)C=C1)N1C(C=2NC3=CC=CC=C3C2CC1)C1=CC2=C(C=C1)OCO2 | C32H30N2O6
solvent | EtOH | CCO | C2H6O
product | (E)-(4-[3-Oxo-3-(1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl)propenyl]benzyloxy)acetic Acid | 40% yield | O=C(/C=C/C1=CC=C(COCC(=O)O)C=C1)N1C(C=2NC3=CC=CC=C3C2CC1)C1=CC2=C(C=C1)OCO2 | C30H26N2O6
